US06528504B2
(R)-2-hydroxymethylpiperidine [prepared by a process described in Japanese Patent Unexamined Published Application (hereinafter referred to as “J. P. KOKAI”) No. Sho 48-19597] (600 mg, 5.22 mmol), 4-methoxyphenethyl tosylate (1.76 g, 5.74 mmol), sodium carbonate (608 mg, 5.74 mmol) and sodium iodide (100 mg, 0.67 mmol) were added to acetonitrile (50 ml), and they were heated under reflux at 90° C. for 3.5 hours. The solvent was evaporated under reduced pressure. The residue was distributed in ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with water and dried over magnesium sulfate. Then the solvent was evaporated under reduced pressure. The obtained residue was subjected to silica gel column chromatography. The product was eluted with hexane and dichloromethane (1:1), then with dichloromethane and finally with dichloromethane and methanol (20:1). The appropriate fractions were combined, and the solvent was evaporated under reduced pressure to obtain (R)-2-hydroxymethyl-1-(4-methoxyphenethyl)piperidine in the form of a light yellow oil (617 mg, 47%).

reactant | (R)-2-hydroxymethylpiperidine | OC[C@@H]1NCCCC1 | C6H13NO
reactant | 4-methoxyphenethyl tosylate | 5.74 mmol, 1.76 g | S(=O)(=O)(OCCC1=CC=C(C=C1)OC)C1=CC=C(C)C=C1 | C16H18O4S
reactant | sodium carbonate | 5.74 mmol, 608 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.67 mmol, 100 mg | [I-].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | (R)-2-hydroxymethyl-1-(4-methoxyphenethyl)piperidine | OC[C@@H]1N(CCCC1)CCC1=CC=C(C=C1)OC | C15H23NO2
